Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: OTOLARYNGOLOGY
 
Allergies: 
iodine / Penicillins / shellfish derived
 
Attending: ___.
 
Chief Complaint:
Tonsillar bleeding
 
Major Surgical or Invasive Procedure:
Control of bilateral tonsil bleed

 
History of Present Illness:
Mr. ___ is a ___ y.o. male with CAD on Brilinta, left neck 
neck mass (FNA SCCa, p16+) who is now POD ___ s/p panendoscopy, 
biopsy of Lt BOT, and bilateral tonsillectomies on ___ (path 
pending) presents with inactive tonsil bleed. Pt restarted 
Ticagrelor on POD 5 as instructed. This evening at around 7:45 
pm he coughed up some dark blood clot. Bleeding persisted till 
about 9:30 pm, totaling approximately a golf-ball sized clot. No 
respiratory distress. Went to ___, where ENT 
evaluated (Dr. ___ and scoped, saw blood clot in left 
tonsillar fossa, no active bleed, airway patent. Pt was 
subsequently transferred here via ambulance for further 
monitoring and work-up. He is otherwise doing well, pain 
controlled with oxycodone, tolerating PO soft diet thus far. In 
the ED there was another bleeding episode and he was taken to 
the OR for control of tonsillar bleed.

 
Past Medical History:
CAD, vertigo, obesity, HN cancer
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Gen: NAD
HEENT: Bilateral tonsillar fossa hemostatic without evidence of 
bleeding
Pulm: Unlabored breathing on room air
CV: Hemodynamically stable
Neuro: Alert and oriented
 
Pertinent Results:
___ 11:15AM   WBC-12.8* RBC-4.94 HGB-14.8 HCT-44.3 MCV-90 
MCH-30.0 MCHC-33.4 RDW-14.2 RDWSD-46.5*
 
Brief Hospital Course:
Mr. ___ was admitted to the Otolaryngology-Head and Neck 
Service with tonsillar bleed. He was taken emergently to the OR 
for control of bleeding. Please see brief op note for detailed 
operative report. Subsequently he was observed overnight and had 
no further bleeding. Postoperative CBC did not show large drop 
in Hct. Diet was advanced as tolerated from clears to softs. Per 
his cardiologist, his Brillinta was discontinued and was started 
on ASA81 on POD1 instead. There was no bleeding after starting 
aspirin. He was discharged on POD1 with good pain control, 
ambulating, voiding, and taking PO without issue with the 
appropriate follow up instructions and prescriptions.
 
Medications on Admission:
Please see chart
 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q4H:PRN Pain - Mild 
Do not take more than 3g in a 24 hour period  
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*2 
3.  OxycoDONE Liquid 5 mg PO Q4H:PRN Pain - Moderate 
Do not drive. Take a stool softener. ___ request partial fill. 
RX *oxycodone 5 mg/5 mL 5 mL by mouth q4h PRN Refills:*0 
4.  Atorvastatin 80 mg PO QPM  
5.  Carvedilol 25 mg PO BID  
6.  Ramipril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Tonsillar bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It is normal to feel tired or washed out after surgery. Rest is 
important and will help you feel better. Walking is also 
important. It will help prevent problems and help you feel 
stronger and have more energy. Just remember to pace yourself 
and rest when you feel tired.

What should I expect after surgery?
- It is normal to have a sore throat and pain in your ear after 
surgery.
- After surgery you will notice white patches on the sides of 
your throat. This is normal.

My Special Instructions:
- Putting an ice pack on your throat and eating ice chips may 
help you feel better.
- Use a humidifier or vaporizer for comfort.
- Drink plenty of fluids.

How do I manage my pain? 
-Some pain is normal after surgery. 
-For mild pain take acetaminophen (Tylenol). Acetaminophen 
(Tylenol) is contained in many medicines. Do not take Tylenol in 
addition to another product that contains Tylenol such as 
Percocet, Vicodin or Tylenol#3 unless recommended by your 
doctor. Do not take more than 4,000mg of Tylenol in 24 hours. 
-For moderate-to-severe pain you have been given a prescription 
for a pain medication in a group of medicines called "opioids." 
You have the option to request that this prescription be filled 
at a lesser quantity. If you choose to not fill the full 
prescription, you will not be able to receive the rest of the 
prescription at a later date.  
-Be sure to take opioid medication responsibly and as directed. 
Do not drink alcohol/drive/operate machinery while taking opioid 
pain medication. -Please wean your pain medication as your pain 
decreases. 
-Narcotic pain medicine can cause constipation. To make it 
easier to have a bowel movement: 
Drink extra fluids. 
Eat foods high in fiber. 
Take a stool softener like docusate (Colace). Take a stool 
softener while taking any opioid pain medication to prevent 
constipation. 
-Be sure to safely dispose of any unused opioid medication once 
it is no longer needed  
-If your pain medicine is not working, call your doctor’s 
office.

How do I take care of myself at home?

Diet
- Start by drinking water and other fluids like juice, tea, and 
broth.
- Drink plenty of fluids. Getting enough fluids is an important 
part of your recovery.
- Do not eat food until your stomach feels better.
- Eat light foods and soft solids in the beginning like ice 
cream, yogurt, and mashed potatoes.
- Avoid sharp, dry, or rough foods such as crackers, pretzels, 
potato chips, or pizza crust for 2 weeks.

Showering and Bathing
- You may shower 24-to-48 hours after surgery.

Activity
- Slowly restart your usual activities and try to do more each 
day.
- Walking is good for you, and you may also climb stairs slowly.
- Do not do any strenuous activity like aerobics, running, or 
weight lifting until your doctor says it’s ok.
- For 2 weeks avoid any activity that increases the pressure in 
your head. After 2 weeks you can slowly begin any activity.

Safety!
For 24 hours after surgery or if you are taking narcotic pain 
medicine, do not drive, drink alcohol, or make any important 
decisions.

When should I call my doctor?
Call your doctor if you have any of these danger signs:
- You have chills or a fever above 100.4° F.
- You are unable to swallow fluids or any soft foods.
- If post-operative bleeding occurs (this can occur as late as 
7- to-10 days after surgery):
Do not lie down. Sit up and lean forward to allow the blood to 
come out of your mouth.
Ice cubes may be pressed under your jaw and neck to slow or stop 
the bleeding.
- You have increased pain that is not helped by pain medicine.
- You have nausea, vomiting, or constipation that lasts more 
than 3 days.
- In an emergency always call ___.

My Medicines
- Restart all of the medicines that you take each day. You 
should no longer take the Brilinta (ticagrelor); instead, take a 
baby aspirin daily. Follow up with your PCP/cardiologist.

Additional Instructions from My Doctor
___ Follow-up ___
It is important to see your doctor after surgery. If you do not 
already have a follow-up appointment scheduled, please call to 
make one.

 
Followup Instructions:
___